US06121271
(2-Benzyl-4,5-dimethylthiophen-3-yl)-(3.5-diethyl-4-methoxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 1, step 4, using 3,5-diethyl-4-methoxybenzoic acid (9.45 g, 45.5 mmol), oxalyl chloride (4.35 mL, 50.0 mmol), N,N-DMF (2 drops), tin(IV) chloride (5.85 mL, 50.0 mmol) and 2-benzyl-4,5-dimethylthiophene (11.0 g, 54.6 mmol) to give 17.67 g (99%) of the title compound. 1H NMR δ 1.13 (t, 6 H), 1.83 (s, 3 H), 2.27 (s, 3 H), 2.64 (q, 4 H), 3.73 (s, 3 H), 3.85 (s, 2 H), 7.04 (d, 2 H), 7.12-7.24 (m, 3 H), 7.43 (s, 2 H).

reactant | 3,5-diethyl-4-methoxybenzoic acid | 45.5 mmol, 9.45 g | C(C)C=1C=C(C(=O)O)C=C(C1OC)CC | C12H16O3
reactant | oxalyl chloride | 50.0 mmol, 4.35 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tin(IV) chloride | 50.0 mmol, 5.85 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-benzyl-4,5-dimethylthiophene | 54.6 mmol, 11.0 g | C(C1=CC=CC=C1)C=1SC(=C(C1)C)C | C13H14S
product | (2-Benzyl-4,5-dimethylthiophen-3-yl)-(3.5-diethyl-4-methoxy-phenyl)-methanone | 17.67 g, 99% | C(C1=CC=CC=C1)C=1SC(=C(C1C(=O)C1=CC(=C(C(=C1)CC)OC)CC)C)C | C25H28O2S
